US06110929
A mixture of 7-methoxyquinolin-4-ol (5.0 g, 28.5 mmol) and propionic acid (50 mL) was heated to reflux. Nitric acid (3.2 mL of 70%, 50 mmol) was added dropwise over a period of 15 minutes. The reaction mixture was refluxed for 2 hrs and then allowed to cool to ambient temperature. The resulting precipitate was isolated by filtration, washed with cold ethanol followed by hexanes and then dried to provide 3.9 g of 7-methoxy-3-nitroquinolin-4-ol as a gray solid.

reactant | 7-methoxyquinolin-4-ol | 28.5 mmol, 5.0 g | COC1=CC=C2C(=CC=NC2=C1)O | C10H9NO2
reactant | Nitric acid | 50 mmol, 3.2 mL | [N+](=O)(O)[O-] | HNO3
solvent | propionic acid | 50 mL | C(CC)(=O)O | C3H6O2
product | 7-methoxy-3-nitroquinolin-4-ol | 3.9 g | COC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])O | C10H8N2O4
